US08476434B2
To N-(4-bromo-2-nitro-phenyl)-N,N′,N′-trimethyl-propane-1,3-diamine (940 mg, 2.97 mmol), Pd(PhCN)2Cl2 (34 mg, 0.09 mmol), CuI (11 mg, 0.06 mmol) and dioxane (4 mL) was added P(tBu)3.HBF4 (53 mg, 0.18 mmol), iPr2NH (0.50 mL, 3.6 mmol) and (trimethylsilyl)acetylene (0.49 mL, 3.6 mmol). The mixture was stirred for 3.5 h at RT, diluted with MeOH and stirred at RT with excess saturated aqueous K2CO3 for 2 h. The mixture was filtered through a pad of activated charcoal and concentrated to yield N-(4-ethynyl-2-nitro-phenyl)-N,N′, N′-trimethyl-propane-1,3-diamine. MS m/z=262 [M+1]+. Calc'd for C14H19N3O2: 261.33.

reactant | N-(4-bromo-2-nitro-phenyl)-N,N′,N′-trimethyl-propane-1,3-diamine | 2.97 mmol, 940 mg | BrC1=CC(=C(C=C1)N(CCCN(C)C)C)[N+](=O)[O-] | C12H18BrN3O2
reactant | P(tBu)3 | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | HBF4 | 0.18 mmol, 53 mg | [H+].[B-](F)(F)(F)F
reactant | iPr2NH | 3.6 mmol, 0.50 mL | N(C(C)C)C(C)C | C6H15N
reactant | (trimethylsilyl)acetylene | 3.6 mmol, 0.49 mL | C[Si](C)(C)C#C | C5H10Si
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | CO | CH4O
catalyst | Pd(PhCN)2Cl2 | 0.09 mmol, 34 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
catalyst | CuI | 0.06 mmol, 11 mg | [Cu]I
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | N-(4-ethynyl-2-nitro-phenyl)-N,N′, N′-trimethyl-propane-1,3-diamine | C(#C)C1=CC(=C(C=C1)N(CCCN(C)C)C)[N+](=O)[O-] | C14H19N3O2
